US05859014
substituting 3-(3-{4-[2-(2,2,2-trifluoroethoxy)phenyl]piperazin-1-yl}propyl)-5-methyl-2,4(1H,3H)-pyrimidinedione and 4-methylbenzyl chloride gave 3-(3-{4-[2-(2,2,2-trifluoroethoxy)phenyl]piperazin-1-yl}propyl)-1-(4-methylbenzyl)-5-methyl-2,4(1H,3H)-pyrimidinedione hydrochloride, m.p. 141°-143° C.; Anal.: Calcd. for C28H33F3N4O3.(HCl)2 : C, 55.89; H, 5.99; N, 9.12%; Found: C, 56.18; H, 5.99; N, 9.31%.

reactant | 3-(3-{4-[2-(2,2,2-trifluoroethoxy)phenyl]piperazin-1-yl}propyl)-5-methyl-2,4(1H,3H)-pyrimidinedione | FC(COC1=C(C=CC=C1)N1CCN(CC1)CCCN1C(NC=C(C1=O)C)=O)(F)F | C20H25F3N4O3
reactant | 4-methylbenzyl chloride | CC1=CC=C(CCl)C=C1 | C8H9Cl
product | 3-(3-{4-[2-(2,2,2-trifluoroethoxy)phenyl]piperazin-1-yl}propyl)-1-(4-methylbenzyl)-5-methyl-2,4(1H,3H)-pyrimidinedione hydrochloride | Cl.FC(COC1=C(C=CC=C1)N1CCN(CC1)CCCN1C(N(C=C(C1=O)C)CC1=CC=C(C=C1)C)=O)(F)F | InChI=1S/C28H33F3N4O3.ClH/c1-21-8-10-23(11-9-21)19-34-18-22(2)26(36)35(27(34)37)13-5-12-32-14-16-33(17-15-32)24-6-3-4-7-25(24)38-20-28(29,30)31;/h3-4,6-11,18H,5,12-17,19-20H2,1-2H3;1H
